US07294627B2
A stirred solution of 2-trifluoromethylpyridin-4-ol (12.5 g, 76.6 mmol) and dimethylformamide (3.00 mL) in phosphorus oxychloride (75 mL) is heated under reflux for 2 hours before excess phosphorus oxychloride is removed in vacuo. The residue is poured onto an ice-water mixture and extracted into ethyl acetate (×5). The combined organic extracts dried (sodium sulfate), filtered and concentrated in vacuo. The non-basic components of the mixture are eluted through a SCX column washing with a 1:1 mixture of methanol-dichloromethane. A stirred suspension of the residue, 1-t-butoxycarbonyl-4-[(methylamino)methyl]piperidine (1.11 g, 4.85 mmol) and potassium carbonate (4.15 g, 30.0 mmol) in dimethylformamide (38 mL) is heated at 90° C. for 13 hours. Excess dimethylformamide is removed in vacuo, the residue is taken into chloroform and washed with 2.5% hydrogen chloride solution. The aqueous layer is extracted into chloroform (×3) and the combined organic extracts are dried (sodium sulfate), filtered and concentrated in vacuo. Flash column chromatography eluting with a gradient of 30% ethyl acetate-hexane to 50% ethyl acetate-hexane provides 1-t-butoxycarbonyl-4-{[(methyl)(2-trifluoromethylpyridin-4-yl)amino]methyl}piperidine (520 mg, 2%).

reactant | 2-trifluoromethylpyridin-4-ol | 76.6 mmol, 12.5 g | FC(C1=NC=CC(=C1)O)(F)F | C6H4F3NO
reactant | 1-t-butoxycarbonyl-4-[(methylamino)methyl]piperidine | 4.85 mmol, 1.11 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC | C12H24N2O2
reactant | potassium carbonate | 30.0 mmol, 4.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | phosphorus oxychloride | 75 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 38 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3.00 mL | CN(C=O)C | C3H7NO
product | 1-t-butoxycarbonyl-4-{[(methyl)(2-trifluoromethylpyridin-4-yl)amino]methyl}piperidine | 520 mg, 2% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C1=CC(=NC=C1)C(F)(F)F)C | C18H26F3N3O2
